US04388317
Reaction of 4-(3-methoxypyridyl)butylamine with 2-nitroamino-5-(5-di-n-butylaminomethyl-2-thienylmethyl)-4-pyrimidone gives 2-[4-(3-methoxypyridyl)butylamino]-5-(5-di-n-butylaminomethyl-2-thienylmethyl)-4-pyrimidone.

reactant | 4-(3-methoxypyridyl)butylamine | COC=1C(=NC=CC1)CCCCN | C10H16N2O
reactant | 2-nitroamino-5-(5-di-n-butylaminomethyl-2-thienylmethyl)-4-pyrimidone | [N+](=O)([O-])NC1=NC=C(C(N1)=O)CC=1SC(=CC1)CN(CCCC)CCCC | C18H27N5O3S
product | 2-[4-(3-methoxypyridyl)butylamino]-5-(5-di-n-butylaminomethyl-2-thienylmethyl)-4-pyrimidone | COC=1C(=NC=CC1)CCCCNC1=NC=C(C(N1)=O)CC=1SC(=CC1)CN(CCCC)CCCC | C28H41N5O2S
